US07419984B2
To a mixture of 2-amino-4,6-dichloro-5-bromo-pyrimidine (1.22 g, 5.0 mmol), 5-chloro-2-methoxy-phenyl boronic acid (1.03 g, 5.5 mmol), palladium (II) acetate (0.17 g, 0.75 mmol) and triphenylphosphine (0.393 g, 1.5 mmol) was added a solution of sodium carbonate (3.18 g, 30 mmol) in water (20 ml) followed by glyme (100 ml). The mixture was stirred under an argon atmosphere at room temperature for 72 hours. Filtration and concentration of the filtrate yielded a residue which was purified by flash chromatography on silica gel eluting with ethyl acetate-hexane (1:3) to provide 5-bromo-4-chloro-6-(5-chloro-2-methoxy-phenyl)-pyrimidin-2ylamine (0.40 g, 23% yield) as a beige powder.

reactant | 2-amino-4,6-dichloro-5-bromo-pyrimidine | 5.0 mmol, 1.22 g | NC1=NC(=C(C(=N1)Cl)Br)Cl | C4H2BrCl2N3
reactant | 5-chloro-2-methoxy-phenyl boronic acid | 5.5 mmol, 1.03 g | ClC=1C=CC(=C(C1)B(O)O)OC | C7H8BClO3
reactant | triphenylphosphine | 1.5 mmol, 0.393 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 30 mmol, 3.18 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 20 ml | O | H2O
catalyst | palladium (II) acetate | 0.75 mmol, 0.17 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | glyme | 100 ml | C(OC)COC | C4H10O2
product | 5-bromo-4-chloro-6-(5-chloro-2-methoxy-phenyl)-pyrimidin-2ylamine | 0.40 g, 23% yield | BrC=1C(=NC(=NC1C1=C(C=CC(=C1)Cl)OC)N)Cl | C11H8BrCl2N3O
